US07326511B2
Synthesis of 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone oxime 2-(n-butylthio)-ethanesulfonate
In 40 mL of THF are dissolved 4.38 g (20.0 mmol) of 2,2,2-Trifluoro-1-(4-methoxyphenyl)-ethanone oxime and the solution is cooled in an ice-bath. To the solution are added successively 2-chloroethanesulfonyl chloride (2.3 mL, 22.0 mmol) and triethylamine (6.4 mL, 46.0 mmol), and the reaction solution is stirred at 0° C. for 1 h. Then, 1-butanethiol (2.4 mL, 22.0 mmol) and triethylamine (4.2 mL, 30.0 mmol) are added successively, and the reaction solution is stirred at room temperature for 0.5 h. After the reaction mixture is poured into water, the crude product is extracted with ethyl acetate twice, washed with water, dried over MgSO4 and concentrated. The residue is purified by column chromatography on silica gel with hexane—ethyl acetate (10:1 to 5:1) as an eluent to afford the product as yellow oil. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 0.92 (t, 3H), 1.41 (m, 2H), 1.57 (m, 2H), 2.56 (t, 2H), 2.93 (t, 2H), 3.66 (t, 2H), 3.87 (s, 3H), 7.00 (d, 2H), 7.55 (d, 2H).

reactant | 2,2,2-Trifluoro-1-(4-methoxyphenyl)-ethanone oxime | 20.0 mmol, 4.38 g | FC(C(=NO)C1=CC=C(C=C1)OC)(F)F | C9H8F3NO2
reactant | 2-chloroethanesulfonyl chloride | 22.0 mmol, 2.3 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | triethylamine | 46.0 mmol, 6.4 mL | C(C)N(CC)CC | C6H15N
reactant | 1-butanethiol | 22.0 mmol, 2.4 mL | C(CCC)S | C4H10S
reactant | triethylamine | 30.0 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone oxime 2-(n-butylthio)-ethanesulfonate | C(CCC)SCCS(=O)(=O)O.FC(C(=NO)C1=CC=C(C=C1)OC)(F)F | InChI=1S/C9H8F3NO2.C6H14O3S2/c1-15-7-4-2-6(3-5-7)8(13-14)9(10,11)12;1-2-3-4-10-5-6-11(7,8)9/h2-5,14H,1H3;2-6H2,1H3,(H,7,8,9)
